US05459243
4-(2-Hydroxy-1-hexen-1-yl)-1-(2-O-methyl-3,5,-di-O-benzoyl-β-D-ribofuranosyl)pyrimidin-2-one.
4-(1-Hexyn-1-yl)-1-(2-O-methyl-3,5,-di-O-benzoyl-β-D-ribofuranosyl)pyrimidin-2-one was dissolved in acetone (40 ml) and to this solution was added mercuric sulfate dissolved in H2O (10 ml) and acetic acid (10 ml). This solution was stirred at room temperature for 5 hours. The reaction was purified by silica gel column chromatography. Pooling of appropriate fractions and concentration gave 225 mg (19%) of the title compound.

reactant | 4-(1-Hexyn-1-yl)-1-(2-O-methyl-3,5,-di-O-benzoyl-β-D-ribofuranosyl)pyrimidin-2-one | C(#CCCCC)C1=NC(N(C=C1)[C@H]1[C@H](OC)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O)=O | C30H30N2O7
reactant | acetone | 40 ml | CC(=O)C | C3H6O
solvent | H2O | 10 ml | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4-(2-Hydroxy-1-hexen-1-yl)-1-(2-O-methyl-3,5,-di-O-benzoyl-β-D-ribofuranosyl)pyrimidin-2-one | 225 mg, 19% | OC(=CC1=NC(N(C=C1)[C@H]1[C@H](OC)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O)=O)CCCC | C30H32N2O8
